US05401775
In 8 ml of 2-methyl-2-propanol was dissolved 0.84 g of 4-dimethylamino-2-(3,4,5-trimethoxyphenyl)butyronitrile, followed by addition of 1.0 g of ground potassium hydroxide. The mixture was refluxed for 1 hour. After cooling the reaction mixture, the insoluble matters were filtered off and the filtrate was concentrated under reduced pressure. To the residue thus obtained were added ethyl acetate and 10% hydrochloric acid. The aqueous layer was separated and made strongly basic with sodium hydroxide for salting-out and the basic substance was extracted with ethyl acetate. The ethyl acetate layer was washed with a mixture of water and saturated aqueous sodium chloride (1:1) and a saturated aqueous solution of sodium chloride in turn, then dried over anhydrous sodium sulfate and concentrated to dryness under reduced pressure. The crystalline residue thus obtained (0.59 g) was recrystallized from ethyl acetate to provide 0.35 g of 4-dimethylamino-2-(3,4,5-trimethoxyphenyl)butyramide.

reactant | 4-dimethylamino-2-(3,4,5-trimethoxyphenyl)butyronitrile | 0.84 g | CN(CCC(C#N)C1=CC(=C(C(=C1)OC)OC)OC)C | C15H22N2O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | 2-methyl-2-propanol | 8 ml | CC(C)(C)O | C4H10O
product | 4-dimethylamino-2-(3,4,5-trimethoxyphenyl)butyramide | 0.35 g | CN(CCC(C(=O)N)C1=CC(=C(C(=C1)OC)OC)OC)C | C15H24N2O4
